US06455528B1
(4) Synthesis of N-(1-(4-((4-(4-Fluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(4-fluorophenyl)piperazine instead of phenylpiperazine and N-(1-(4-chloromethylphenyl)ethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as white crystals, m.p.=101-103° C.

reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | N-(1-(4-chloromethylphenyl)ethyl)acetamide | ClCC1=CC=C(C=C1)C(C)NC(C)=O | C11H14ClNO
product | N-(1-(4-((4-(4-Fluorophenyl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)C(C)NC(C)=O | C21H26FN3O
